US05302621
N-[α-(4-Chlorophenyl)benzyl]-3-oxo-4-azaandrost-5-ene-17β-carboxamide
The title compound was prepared in a yield of 78% in a similar manner to that described in Example 2 by reacting 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid and α-(4-chlorophenyl)benzylamine.

reactant | 3-oxo-4-azaandrost-5-ene-17β-carboxylic acid | O=C1NC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)C(=O)O | C19H27NO3
reactant | α-(4-chlorophenyl)benzylamine | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)N | C13H12ClN
product | N-[α-(4-Chlorophenyl)benzyl]-3-oxo-4-azaandrost-5-ene-17β-carboxamide | yield of 78% | ClC1=CC=C(C=C1)C(C1=CC=CC=C1)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3NC(CC[C@]3(C)[C@H]1CC2)=O | C32H37ClN2O2
